US06331538B1
1-Benzyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Phenylsilane (0.07 mL, 0.56 mmol) and palladium tetrakistriphenylphosphine (17 mg, 0.015 mmol) were added to a solution of 3-allyloxy-1-benzyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example B-4, 0.15 g, 0.4 mmol) in 10 mL of dichloromethane at 0° C. The mixture was stirred for 17 hours and filtered to give 0.06 g of the title compound as a solid, mp 234-236° C.

reactant | Phenylsilane | 0.56 mmol, 0.07 mL | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | 3-allyloxy-1-benzyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.4 mmol, 0.15 g | C(C=C)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)CC1=CC=CC=C1)=O | C22H22FN3O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Benzyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.06 g | C(C1=CC=CC=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C19H18FN3O3
